US06528663B1
156.9 g (1.6 mole) of maleic anhydride and 250 ml toluene were added to a flask. 25 ml of toluene was removed by distillation to dry the solution. 150 g (1.69 mole) of chloroprene dissolved in 250 ml of xylene was slowly added to the flask. The entire addition took 30 minutes. The resulting solution was then heated at 55° C. for three hours. The solution was then distilled to remove solvents. The remaining material was distilled at 160-165° C. (1 to 2 mm pressure) to afford 4-chlorotetrahydrophthalic anhydride in 85% yield (253 grams).

reactant | maleic anhydride | 1.6 mole, 156.9 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
reactant | chloroprene | 1.69 mole, 150 g | C=CC(=C)Cl | C4H5Cl
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-chlorotetrahydrophthalic anhydride | 85% yield | ClC1CC2C(C(=O)OC2=O)C=C1 | C8H7ClO3
